US07223795B2
N-benzyloxycarbonyl-L-leucinylfluoride (3)
To a stirred solution of N-benzyloxycarbonyl-L-leucine (0.50 g, 1.87 mmol) and pyridine (0.15 ml, 1.88 mmol) in anhydrous DCM (5 ml) kept under a N2 atmosphere was added cyanuric fluoride (0.51 ml, 5.64 mmol) at −15 to −10° C. A white precipitate formed. After stirring for 1 hr at −5° C., IR of the crude reaction mixture indicated formation of the acyl fluoride. After 2 hrs crushed ice was added along with DCM (10 ml). The organic layer was separated and the aqueous layer extracted with DCM (5 ml). The combined DCM layers were washed with ice-cold water (10 ml), dried (MgSO4) and concentrated under reduced pressure to afford a colourless oil (0.36 g, 73%) which was used in subsequent reactions without further purification: νmax(polyethylene card) 3317 (N—H), 1843 (acid fluoride); δH (200 MHz, CDCl3) 0.97 (6H, d, J 6.0, CH(CH3)2), 1.62–1.78 (3H, m, CH(CH3)2 & CH2CH(CH3)2), 4.54–4.61 (1H, m, NHCH), 5.02 (1H, m, NH), 5.14 (2H, s, CH2Ph), 7.36 (5H, s, Ar—H).

reactant | N-benzyloxycarbonyl-L-leucine | 1.87 mmol, 0.50 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | pyridine | 1.88 mmol, 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 5.64 mmol, 0.51 ml | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-L-leucinylfluoride | 0.36 g, 73% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)F | C14H18FNO3
